US04057647
3.55 g. of 3-(2',4'-difluoro-4-biphenylyl)-3-bromobutyric acid, obtained by brominating 3-(2',4'-difluoro-4-biphenylyl)butyric acid, are dissolved in a mixture of 15 ml. of acetone and 15 ml. of water. One drop of sulfuric acid is added and the mixture is warmed to 45° for 4 hours and worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid, m.p. 121°-123°.

reactant | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
reactant | acetone | CC(=O)C | C3H6O
catalyst | sulfuric acid | One drop | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)(C)O | C16H14F2O3
